US07271153B2
To a solution of 3-ethoxycarbonyl-2,6-dimethyl-1H-pyridin-4-one (9.7 g) in dichloromethane (200 mL) were added benzyl bromide (8.9 mL) and silver carbonate (41 g), and the mixture was stirred for 2 hours at 50° C. under shading. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. After the filtrate was concentrated under reduced pressure, the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1) to give 4-benzyloxy-3-ethoxy-carbonyl-2,6-dimethylpyridine (8.6 g). To a solution of the obtained 4-benzyloxy-3-ethoxycarbonyl-2,6-dimethylpyridine (8.6 g) in tetrahydrofuran (60 mL) was added diisobutylaluminum hydride (1.5 mol/L solution in toluene, 50 mL) at 0° C. The temperature was raised to room temperature, and the reaction mixture was stirred for additionally 40 minutes. After the reaction mixture was poured into 2 mol/L hydrochloric acid (68 mL), 2 mol/L aqueous sodium hydroxide solution (130 mL) was added to the mixture, and the mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give 4-benzyloxy-3-hydroxymethyl-2,6-dimethyl-pyridine (7.2 g). To a solution of the obtained 4-benzyloxy-3-hydroxymethyl-2,6-dimethylpyridine (7.2 g) in dichloromethane (120 mL) was added a Dess-Martin reagent (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one)(15 g), and the mixture was stirred for 6.5 hours at room temperature. To the reaction mixture were added saturated aqueous sodium bicarbonate solution (150 mL) and 10% sodium thiosulfate (150 mL), and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/2) to give 4-benzyloxy-3-formyl-2,6-dimethylpyridine (5.3 g). To a solution of 4-butyl-bromobenzene (0.052 g) in tetrahydrofuran (1.2 mL) was added tert-butyllithium (1.5 mol/L solution in hexane, 0.20 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was added 4-benzyloxy-3-formyl-2,6-dimethylpyridine (0.048 g) in tetrahydrofuran (1.3 mL), and the mixture was stirred for, 50 minutes at 0° C. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing, solvent: hexane/ethyl acetate=1/2) to give 4-benzyloxy-2,6-dimethylpyridin-3-yl 4-butylphenyl methanol (0.043 g). To a solution of the obtained 4-benzyloxy-2,6-dimethylpyridin-3-yl 4-butylphenyl methanol (0.043 g) in ethanol (2.3 mL) was added 10% palladium carbon powder (0.085 g), and the mixture was stirred for 12 hours at room temperature under a hydrogen atmosphere. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloromethane/methanol=8/1) to give, 3-(4-butylbenzyl)-2,6-dimethyl-1H-pyridin-4-one (0.027 g).

reactant | 4-benzyloxy-3-hydroxymethyl-2,6-dimethylpyridine | 7.2 g | C(C1=CC=CC=C1)OC1=C(C(=NC(=C1)C)C)CO | C15H17NO2
reactant | Dess-Martin reagent | 15 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 150 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 4-benzyloxy-3-formyl-2,6-dimethylpyridine | 5.3 g | C(C1=CC=CC=C1)OC1=C(C(=NC(=C1)C)C)C=O | C15H15NO2
